US05216167
2-Ethoxy-4-[N-(α-acetoxymethyl-2-piperidino-benzyl)-aminocarbonylmethyl]-benzoic acid
Prepared analogously to Example 68 by catalytic hydrogenation of benzyl 2-ethoxy-4-[N-(α-acetoxymethyl-2-piperidino-benzyl)-aminocarbonylmethyl]-benzoate in ethanol.

reactant | benzyl 2-ethoxy-4-[N-(α-acetoxymethyl-2-piperidino-benzyl)-aminocarbonylmethyl]-benzoate | C(C)OC1=C(C(=O)OCC2=CC=CC=C2)C=CC(=C1)CC(=O)NC(C1=C(C=CC=C1)N1CCCCC1)COC(C)=O | C33H38N2O6
solvent | ethanol | C(C)O | C2H6O
product | 2-Ethoxy-4-[N-(α-acetoxymethyl-2-piperidino-benzyl)-aminocarbonylmethyl]-benzoic acid | C(C)OC1=C(C(=O)O)C=CC(=C1)CC(=O)NC(C1=C(C=CC=C1)N1CCCCC1)COC(C)=O | C26H32N2O6
